US04649160
The 1-benzyloxy-2-chloro-4-(2-phenethyloxyethoxy)-benzene obtained according to the preceding paragraph was stirred in 20 ml of 48% hydrogen bromide in glacial acetic acid at 25° C. for 30 minutes. The solution was evaporated to dryness and the residue was partitioned between 2N aqueous sodium hydroxide and diethyl ether. The aqueous phase was acidified to pH 6 with concentrated hydrochloric acid and extracted with ethyl acetate. The organic extract was washed with water, dried over sodium sulfate, filtered and evaporated to give 2.06 g (76%) of 2-chloro-4-(2-phenethyloxyethoxy)phenol in the form of an oil which was homogeneous according to chromatography.

reactant | 1-benzyloxy-2-chloro-4-(2-phenethyloxyethoxy)-benzene | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)OCCOCCC1=CC=CC=C1)Cl | C23H23ClO3
solvent | hydrogen bromide | 20 ml | Br | BrH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-chloro-4-(2-phenethyloxyethoxy)phenol | 2.06 g, 76% | ClC1=C(C=CC(=C1)OCCOCCC1=CC=CC=C1)O | C16H17ClO3
